US05362730
To a 2-liter round-bottom flask containing 71.0 g (0.15 mol) of terazosin monohydrochloride dihydrate was added 1300 mL of absolute ethanol, a stirring bar and several glass boiling beads. The flask was fitted with a Dean-Stark trap and reflux condensor. The heterogenous mixture was heated under reflux for two days. After cooling, the undissolved white solid remaining in the flask was collected by vacuum filtration and washed with dry acetone to yield 60.9 g (0.143 mol, 93.5%) of the anhydrous crystalline polymorph of terazosin of this invention. The material was found by its powder x-ray diffraction pattern to be free of both the prior art anhydrous crystalline modification and the dihydrate form.

reactant | terazosin monohydrochloride dihydrate | 0.15 mol, 71.0 g | COC1=C(C=C2C(=C1)C(=NC(=N2)N3CCN(CC3)C(=O)C4CCCO4)N)OC.O.O.Cl
solvent | ethanol | 1300 mL | C(C)O | C2H6O
product | terazosin | COC=1C=C2C(=CC1OC)N=C(N=C2N)N3CCN(CC3)C(=O)C4CCCO4 | C19H25N5O4
